US04122193
1-amino-3,5-dimethyl-adamantane hydrochloride
1.99 grams of 1-chloro-3,5-dimethyl-adamantane were heated with 0.9 gram urea for about 40 minutes at 220° C. The heating was carried out in a closed vessel in an oil bath with a thermostat. After cooling, the reaction product was pulverized and made into a paste with 50 ml. water. The water phase was brought to a pH between 3 and 5 by dropwise addition of concentrated HCl. The acidified water phase was extracted with two 10-ml. ether portions. Next the water phase was brought to a pH between 12 and 13 by addition of sodium hydroxide, and stirred for 5 minutes. After stirring, the alkaline water phase was extracted with four portions of ether, 10 ml. each. The combined ether extracts were dried over potassium hydroxide. By bubbling dried hydrogen chloride through the solution, 1-amino-3,5-dimethyl-adamantane hydrochloride was precipitated. The yield was 1.7 grams (78% of the theoretical yield). The product did not melt until 300° C.

reactant | 1-chloro-3,5-dimethyl-adamantane | 1.99 grams | ClC12CC3(CC(CC(C1)C3)(C2)C)C | C12H19Cl
reactant | urea | 0.9 gram | NC(=O)N | CH4N2O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1-amino-3,5-dimethyl-adamantane hydrochloride | Cl.NC12CC3(CC(CC(C1)C3)(C2)C)C | InChI=1S/C12H21N.ClH/c1-10-3-9-4-11(2,6-10)8-12(13,5-9)7-10;/h9H,3-8,13H2,1-2H3;1H
